US06288082B1
A solution of 400 mg (1.44 mM) of 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile and 330 mg (1.88 mM) of 7-Amino-4-methyl-coumarin in 15 ml of 2-methoxyethanol was refluxed for 3 hours. To the warm solution was added 1 ml of 1M sodium carbonate and the sample was heated for 5 minutes at 100° C., then poured into 300 ml of ice water. The solid was collected, washed with water followed by ether and dried under vacuum at 80° C. to yield 431 mg of 6,7-Diethoxy-4-(4-methyl-2-oxo-2H-chromen-7-ylamino)-quinoline-3-carbonitrile as a tan solid: mass spectrum (electrospray, m/e): M+H 416.0, mp=282-284° C.

reactant | 4-chloro-6,7-diethoxy-quinoline-3-carbonitrile | 1.44 mM, 400 mg | ClC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C14H13ClN2O2
reactant | 7-Amino-4-methyl-coumarin | 1.88 mM, 330 mg | NC1=CC=C2C(=CC(OC2=C1)=O)C | C10H9NO2
reactant | sodium carbonate | 1M, 1 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 2-methoxyethanol | 15 ml | COCCO | C3H8O2
product | 6,7-Diethoxy-4-(4-methyl-2-oxo-2H-chromen-7-ylamino)-quinoline-3-carbonitrile | 431 mg | C(C)OC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC=C2C(=CC(OC2=C1)=O)C | C24H21N3O4
